US04737313
3'-Fluoro-4'-hydroxy-4-acetylbiphenyl (15 g), potassium hydroxide (4.0 g), ethanol (370 ml), optically active 1-methylheptyl p-toluenesulfonate (20.5 g), were heated for 5 hrs. under reflux, to obtain by usual work-up, 6.37 g of 3'-fluoro-4'-(1-methylheptyloxy)-4-acetylbiphenyl, m.p. 67.6°~68.5° C.

reactant | 3'-Fluoro-4'-hydroxy-4-acetylbiphenyl | 15 g | FC=1C=C(C=CC1O)C1=CC=C(C=C1)C(C)=O | C14H11FO2
reactant | potassium hydroxide | 4.0 g | [OH-].[K+]
reactant | 1-methylheptyl p-toluenesulfonate | 20.5 g | C1(=CC=C(C=C1)S(=O)(=O)OC(CCCCCC)C)C | C15H24O3S
solvent | ethanol | 370 ml | C(C)O | C2H6O
product | 3'-fluoro-4'-(1-methylheptyloxy)-4-acetylbiphenyl | 6.37 g | FC=1C=C(C=CC1OC(CCCCCC)C)C1=CC=C(C=C1)C(C)=O | C22H27FO2
